US08492378B2
6-[5-[2-[3-(trifluoromethyl)phenyl]ethyl]-1,3,4-oxadiazol-2-yl]benzothiazole
A solution of N′-[3-[3-(trifluoromethyl)phenyl]propionyl]benzothiazole-6-carbohydrazide (433 mg, 1.10 mmol) and p-toluenesulfonyl chloride (419 mg, 2.20 mmol) in pyridine (5 mL) was stirred under an argon atmosphere at 80° C. for 16 hr. After cooling, the reaction mixture was diluted with ethyl acetate, washed with 0.1M hydrochloric acid and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (hexane/ethyl acetate=1/1) and recrystallized from hexane/ethyl acetate to give the title compound (308 mg, yield 75%) as colorless crystals.

reactant | N′-[3-[3-(trifluoromethyl)phenyl]propionyl]benzothiazole-6-carbohydrazide | 1.10 mmol, 433 mg | FC(C=1C=C(C=CC1)CCC(=O)NNC(=O)C1=CC2=C(N=CS2)C=C1)(F)F | C18H14F3N3O2S
reactant | p-toluenesulfonyl chloride | 2.20 mmol, 419 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-[5-[2-[3-(trifluoromethyl)phenyl]ethyl]-1,3,4-oxadiazol-2-yl]benzothiazole | 308 mg, yield 75% | FC(C=1C=C(C=CC1)CCC1=NN=C(O1)C1=CC2=C(N=CS2)C=C1)(F)F | C18H12F3N3OS
